US07846950B2
5-[3-Fluoro-4-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenoxymethyl]-thiophene-2-carbonitrile
The title compound is prepared in a manner substantially analogous to Procedure B using (2-Fluoro-4-hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone and 5-bromomethyl-thiophene-2-carbonitrile [CAS 134135-41-4]. MS (ES+) m/e 414.2

reactant | (2-Fluoro-4-hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | FC1=C(C=CC(=C1)O)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C16H21FN2O2
reactant | 5-bromomethyl-thiophene-2-carbonitrile | BrCC1=CC=C(S1)C#N | C6H4BrNS
product | 5-[3-Fluoro-4-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenoxymethyl]-thiophene-2-carbonitrile | FC=1C=C(OCC2=CC=C(S2)C#N)C=CC1C(=O)N1[C@@H](CCC1)CN1CCCC1 | C22H24FN3O2S
